US05356897
To a solution of sodium (23 mg) in dry ethanol (3 ml) was added 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole (254 mg) and ethyl cyanoacetate (113 mg). The mixture was refluxed for 5 hours and cooled. To the reaction mixture were added 1N-hydrochloric acid (2 ml) and water (5 ml). The separated solid was collected, washed with water and dried to give 7-amino-2-(4-fluorophenyl)-5-hydroxy-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine (270 mg).

reactant | sodium | 23 mg | [Na] | Na
reactant | 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | 254 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H11FN4
reactant | ethyl cyanoacetate | 113 mg | C(#N)CC(=O)OCC | C5H7NO2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 7-amino-2-(4-fluorophenyl)-5-hydroxy-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine | 270 mg | NC1=CC(=NC=2N1N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F)O | C17H12FN5O
